US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride and 2-chloropyridine-5-acetic acid were reacted as described in Example 8, Step 6 to provide {5-[2-({N-[2-(6-chloro-pyridin-3-yl)-acetyl]-N-ethyl-amino}-methyl)-4-trifluoromethyl-phenyl]-pyridin-3-yl}-acetic acid ethyl ester.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O
reactant | 2-chloropyridine-5-acetic acid | ClC1=NC=C(C=C1)CC(=O)O | C7H6ClNO2
product | {5-[2-({N-[2-(6-chloro-pyridin-3-yl)-acetyl]-N-ethyl-amino}-methyl)-4-trifluoromethyl-phenyl]-pyridin-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(CC=1C=NC(=CC1)Cl)=O)=O | C26H25ClF3N3O3
